US03931407
2-Phenyl-1-(5-carboxy-4-hydroxy-2-trifluoromethylphenyl)-4,5,6,7-tetrahydroindole ##SPC69##
A mixture of 6.5 g. (0.029 mole) of 5-amino-4-trifluoromethylsalicylic acid, 6.35 g. (0.029 mole) of 2-phenacylcyclohexanone, and 30 ml. of glacial acetic acid was heated under reflux for 3 hours, cooled and filtered. The filter cake was recrystallized from acetic acid to provide 4.6 g. (39%) of gold crystals, m.p. 188°-190°.

reactant | 5-amino-4-trifluoromethylsalicylic acid | 0.029 mole | NC1=C(C=C(C(C(=O)O)=C1)O)C(F)(F)F | C8H6F3NO3
reactant | 2-phenacylcyclohexanone | 0.029 mole | C(C(=O)C1=CC=CC=C1)C1C(CCCC1)=O | C14H16O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Phenyl-1-(5-carboxy-4-hydroxy-2-trifluoromethylphenyl)-4,5,6,7-tetrahydroindole | C1(=CC=CC=C1)C=1N(C=2CCCCC2C1)C1=C(C=C(C(=C1)C(=O)O)O)C(F)(F)F | C22H18F3NO3
